US04436753
To a solution (150 ml) of 11-acetoxy-n-undecanoyl chloride (27.6 g) in 1,2-dichloroethane is added aluminum chloride (28 g), and the mixture is stirred at room temperature for 2 hours. The reaction mixture is cooled to 5° C. followed by addition of a solution (50 ml) of 3,4,5-trimethoxytoluene (19.1 g) in 1,2-dichloroethane and the whole mixture is stirred at room temperature for 72 hours. The reaction mixture is then heated to 50°-60° C. and stirred for 30 minutes. After cooling, 300 ml of ice water is added to the reaction mixture and the product is extracted with dichloromethane. The dichloromethane layer is washed with water and dried over anhydrous magnesium sulfate, and the solvent is distilled off to give a light-yellow oil of 6-(11-acetoxy-1-oxoundecyl)-2,3-dimethoxy-5-methylphenol (33 g).

reactant | 11-acetoxy-n-undecanoyl chloride | 150 ml, 27.6 g | C(C)(=O)OCCCCCCCCCCC(=O)Cl | C13H23ClO3
reactant | aluminum chloride | 28 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3,4,5-trimethoxytoluene | 50 ml, 19.1 g | COC=1C=C(C=C(C1OC)OC)C | C10H14O3
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 6-(11-acetoxy-1-oxoundecyl)-2,3-dimethoxy-5-methylphenol | 33 g | C(C)(=O)OCCCCCCCCCCC(=O)C1=C(C=C(C(=C1O)OC)OC)C | C22H34O6
